US04421690
A mixture of 1.87 g (0.0027 mol) of [1α,3β]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24,24-difluorocholest-5-ene, 70 mL of methanol and 0.30 g of p-toluenesulfonic acid monohydrate was stirred at 25° C. for 4 hr. The mixture was quenched by adding 1.0 g of sodium bicarbonate and stirring for 0.5 hr. The mixture was then evaporated to dryness. The residue was triturated with ethyl acetate, filtered, and evaporated to dryness. The crude solid was recrystallized from ethyl acetate to yield [1α,3β]-24,24-difluorocholest-5-en-1,3,25-triol, mp 177°-179°, [α]D21 -15° (c 0.6, MeOH).

reactant | [1α,3β]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24,24-difluorocholest-5-ene | 0.0027 mol, 1.87 g | O1C(CCCC1)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC(C(C)(C)OC(C)OCC)(F)F)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC1OCCCC1 | C41H68F2O6
reactant | p-toluenesulfonic acid monohydrate | 0.30 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 70 mL | CO | CH4O
product | [1α,3β]-24,24-difluorocholest-5-en-1,3,25-triol | FC(C(C)(C)O)(CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O)F | C27H44F2O3
